US06677368B2
A mixture of 3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-benzoic acid (1.27 g, 5.0 mmol), HOBt (0.68 g, 5.0 mmol) and EDC (1.44 g, 7.5 mmol) in DMF (10 mL) was stirred at room temperature for 30 minutes. To the mixture was added methylamine (2M in THF, 3.75 mL, 7.5 mmol), it was then stirred at room temperature for overnight. Most of the solvent was removed under reduced pressure and the residue was diluted with sat. NaHCO3 (20 mL). The precipitate was collected by filtration, washed with water and dried. The crude product was recrystallized from DCM-hexane to give 1.14 g (86%) of N-methyl-3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-benzamide as a light yellow solid.

reactant | 3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-benzoic acid | 5.0 mmol, 1.27 g | O=C1NC2=CC=CC(=C2C1)C=1C=C(C(=O)O)C=CC1 | C15H11NO3
reactant | HOBt | 5.0 mmol, 0.68 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 7.5 mmol, 1.44 g
reactant | methylamine | 7.5 mmol, 2M, 3.75 mL | CN | CH5N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-methyl-3-(2-oxo-2,3-dihydro-1H-indol-4-yl)-benzamide | 1.14 g, 86% | CNC(C1=CC(=CC=C1)C1=C2CC(NC2=CC=C1)=O)=O | C16H14N2O2
